US07151105B2
6-Cyclopentyl-3-[(5,7-dimethyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-4-hydroxy-6-(4-piperidin-4-ylbutyl)-5,6-dihydro-2H-pyran-2-one
tert-Butyl 4-(4-{2-cyclopentyl-5-[(5,7-dimethyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl}butyl)piperidine-1-carboxylate (example B(41)) (0.47 g, 0.8 mmol) was dissolved in dioxane (1 mL) and 4N HCl in dioxane (1 mL). The reaction was stirred overnight at room temperature. Solvents were removed and the residue was purified using a Dionex system (30–70% CH3CN/H2O (0.1% AcOH). H NMR (400 MHz, DMSO-d6): δ 1.37–1.70 (m, 20 H), 2.63–2.85 (m, 12 H), 3.69–3.95 (m, 4H), 7.98 (s, 1H), 11.12 (s, 1H). Anal. Calcd. For C27H39N5O3.1.0 HCl.1.5 H2O: C, 59.49; H, 7.95; N, 12.85, Found: C, 59.60; H, 8.04; N, 12.95. ESIMS (MH+): 482.

reactant | tert-Butyl 4-(4-{2-cyclopentyl-5-[(5,7-dimethyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl}butyl)piperidine-1-carboxylate | 0.8 mmol, 0.47 g | C1(CCCC1)C1(OC(C(=C(C1)O)CC1=NN2C(N=C(C=C2C)C)=N1)=O)CCCCC1CCN(CC1)C(=O)OC(C)(C)C | C32H47N5O5
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 6-Cyclopentyl-3-[(5,7-dimethyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-4-hydroxy-6-(4-piperidin-4-ylbutyl)-5,6-dihydro-2H-pyran-2-one | C1(CCCC1)C1(CC(=C(C(O1)=O)CC1=NN2C(N=C(C=C2C)C)=N1)O)CCCCC1CCNCC1 | C27H39N5O3
